US05142052
1-(2-Methoxyphenyl)-4-[(4-hydroxyphenyl)methyl]piperazine
4-Hydroxyphenyl methanol (124 g, 1 mole) and 192 g (1 mole) of 1-(2-methoxyphenyl)piperazine, together with 56 g (1 mole) of potassium hydroxide and 8.7 g (0.1 mole) of lithium bromide and 32.2 g (0.1 mole) of Aliquat 366 were dissolved in a mixture of 1 liter of toluene and 1 liter of water. The reaction mixture was refluxed for 24 hours, and then allowed to cool to room temperature. The organic layer was decanted and extracted twice with 500 ml of a 10% sodium hydroxide solution. The basic aqueous liquor was treated with ammonium acetate to provoke precipitation of the desired product. After filtration and drying under vacuum overnight at 50° C., 167 g (0.56 mole, 56% yield) of the title product was obtained as small white leaflets melting at 172° C.

reactant | 4-Hydroxyphenyl methanol | 1 mole, 124 g | OC1=CC=C(C=C1)CO | C7H8O2
reactant | 1-(2-methoxyphenyl)piperazine | 1 mole, 192 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium hydroxide | 1 mole, 56 g | [OH-].[K+]
reactant | lithium bromide | 0.1 mole, 8.7 g | [Br-].[Li+]
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 liter | O | H2O
product | 1-(2-Methoxyphenyl)-4-[(4-hydroxyphenyl)methyl]piperazine | 0.56 mole, 167 g, 56% yield | COC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)O | C18H22N2O2
